US07053122B2
4-Bromo-1-oxo-1,3-dihydro-isoindole-2-carboxylic acid tert butyl ester
A mixture of the 4-bromo-2,3-dihydro-isoindol-1-one (0.159 g, 0.749 mmol), di tert butyl dicarbonate (0.33 g, 1.5 mmol), triethylamine (0.11 ml, 0.75 mmol) and DMAP (0.092 g, 0.75 mmol) in dichoromethane (7 ml) was stirred at room temperature under nitrogen for 18 hours. The yellow solution was purified by flash chromatography on silica gel eluting with a solvent gradient of heptane/ethyl acetate (3:1) to give the title compound (0.23 g, 99%) as a colourless residue.

reactant | 4-bromo-2,3-dihydro-isoindol-1-one | 0.749 mmol, 0.159 g | BrC1=C2CNC(C2=CC=C1)=O | C8H6BrNO
reactant | di tert butyl dicarbonate | 1.5 mmol, 0.33 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.75 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.75 mmol, 0.092 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichoromethane | 7 ml | ClCCl | CH2Cl2
product | 4-Bromo-1-oxo-1,3-dihydro-isoindole-2-carboxylic acid tert butyl ester | 0.23 g, 99% | C(C)(C)(C)OC(=O)N1C(C2=CC=CC(=C2C1)Br)=O | C13H14BrNO3
